US06090852
(b) Methyl-2-({methyl[3-(biphen-4-yl)-trans-prop-2-enyl]amino}sulfonyl)acetate
To a solution of methyl 2-({methyl[allyl]amino}sulfonyl)acetate (300 mg, 1.4 mmol) and 4-bromobiphenyl (370 mg, 1.54 mmol) in acetonitrile (4 ml) was added triethylamine (0.3 ml, 2.1 mmol), palladium(II) acetate (17 mg, 0.07 mmol) and tri-ortho-tolyl phosphine (52 mg, 0.14 mmol) and the solution was heated to reflux under an atmosphere of nitrogen for 3 hours. The mixture was cooled to ambient temperature, the solvent was evaporated and the residue was purified by flash chromatography on silica gel (dichloromethane as eluent) to give the title compound as a pale yellow solid (300 mg).

reactant | methyl 2-({methyl[allyl]amino}sulfonyl)acetate | 1.4 mmol, 300 mg | CN(S(=O)(=O)CC(=O)OC)CC=C | C7H13NO4S
reactant | 4-bromobiphenyl | 1.54 mmol, 370 mg | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | triethylamine | 2.1 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | tri-ortho-tolyl phosphine | 0.14 mmol, 52 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.07 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl-2-({methyl[3-(biphen-4-yl)-trans-prop-2-enyl]amino}sulfonyl)acetate | 300 mg | COC(CS(=O)(=O)N(C\C=C\C1=CC=C(C=C1)C1=CC=CC=C1)C)=O | C19H21NO4S
